US09029536B2
2-Methyl-1-(2-{4-[1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]phenoxy}-1H-benzimidazol-1-yl)propan-2-ol
A mixture of 2-methyl-1-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzimidazol-1-yl}propan-2-ol (237 mg), 3-bromo-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine (139 mg), Cs2CO3 (378 mg), Pd(PPh3)4 (20.1 mg), DME (5 mL), and water (1 mL) was stirred at 140° C. for 30 min under microwave irradiation. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) and recrystallized from AcOEt/hexane to give the title compound (175 mg).

reactant | 2-methyl-1-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzimidazol-1-yl}propan-2-ol | 237 mg | CC(CN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)(C)O | C23H29BN2O4
reactant | 3-bromo-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine | 139 mg | BrC1=NN(C=2C1=NC=CC2)C(C)C | C9H10BrN3
reactant | Cs2CO3 | 378 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DME | 5 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 20.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
product | 2-Methyl-1-(2-{4-[1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]phenoxy}-1H-benzimidazol-1-yl)propan-2-ol | 175 mg | CC(CN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)C2=NN(C=1C2=NC=CC1)C(C)C)(C)O | C26H27N5O2
